US07521455B2
(1) Manufacture of 4-amino-2-bromophenol
The target compound was obtained by reducing 2-bromo-4-nitrophenol with iron in a mixed solution of methanol and ammonium chloride aqueous solution. 2-bromo-4-nitrophenol was manufactured by the method described in the literature (J. Org. Chem., Vol. 62, 1997, p. 4504).

reactant | 2-bromo-4-nitrophenol | BrC1=C(C=CC(=C1)[N+](=O)[O-])O | C6H4BrNO3
reactant | ammonium chloride | [Cl-].[NH4+]
catalyst | iron | [Fe] | Fe
solvent | methanol | CO | CH4O
product | 4-amino-2-bromophenol | NC1=CC(=C(C=C1)O)Br | C6H6BrNO
